US03957288
Preparation of 1-methyl-2-phenyl-3-formyl-indole.
To 150 ml of dimethylformamide 46 ml of phosphorus oxychloride were added dropwise care being taken that the temperature of the reaction mixture did not rise above 20°C. Subsequently to the obtained mixture 103.5 g of 1-methyl-2-phenylindole dissolved in 200 ml of dimethylformamide were added dropwise. During the addition the temperature of the reaction mixture was kept in the range of 20° to 40°C and thereupon for 1 hour between 40° and 45°C. Then the reaction mixture was poured into a solution of 490 g of sodium acetate dissolved in 500 ml of water to which 500 g of ice were added. The precipitated aldehyde was separated by suction, washed with water and methanol.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-methyl-2-phenylindole | 103.5 g | CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H13N
reactant | sodium acetate | 490 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-methyl-2-phenyl-3-formyl-indole | CN1C(=C(C2=CC=CC=C12)C=O)C1=CC=CC=C1 | C16H13NO
